### PR TITLE
[Merged by Bors] - feat: Levy-Prokhorov distance pseudometrizes convergence in distribution

### PR DESCRIPTION
**Pull request by kkytola**
Add the more interesting direction of topology comparison for the Lévy-Prokhorov distance. Conclude that if the underlying space is separable, then the topology of convergence in distribution coincides with the one obtained from the Lévy-Prokhorov (pseudo)metric. In particular the topology of convergence in distribution is (pseudo)metrizable, and so first countable.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Lattice.lean [hunk 1]
```diff
@@ -1363,6 +1363,9 @@ theorem biUnion_iUnion (s : ι → Set α) (t : α → Set β) :
     ⋃ x ∈ ⋃ i, s i, t x = ⋃ (i) (x ∈ s i), t x := by simp [@iUnion_comm _ ι]
 #align set.bUnion_Union Set.biUnion_iUnion
 
+lemma iUnion_biUnion {ι κ : Type*} (s : ι → Set α) {j : κ → Set ι} :
```
Comment (kkytola) [inline Mathlib/Data/Set/Lattice.lean:1366]: Besides the main mathematical result about metrizability of convergence in distribution, this PR suggests adding some number of `biUnion` lemmas (all of which were counterparts of some existing `iUnion` lemmas) that in the end are not strictly necessary for the main proof, but I expected to find them and thought they could be seen as API-holes.

The lowest level such lemma is `iUnion_biUnion` here. This is one thing I expected to find by `exact?`.

I'm ok leaving these `biUnion` lemmas out of the PR if they are not seen as natural API additions. I'll repeat the comment briefly at each such lemma.

File: Mathlib/Topology/MetricSpace/Thickening.lean [hunk 2]
```diff
@@ -362,6 +379,9 @@ theorem thickening_iUnion (δ : ℝ) (f : ι → Set α) :
   simp_rw [thickening, infEdist_iUnion, iInf_lt_iff, setOf_exists]
 #align metric.thickening_Union Metric.thickening_iUnion
 
+lemma thickening_biUnion {ι : Type*} (δ : ℝ) (f : ι → Set α) (I : Set ι) :
```
Comment (kkytola) [inline Mathlib/Topology/MetricSpace/Thickening.lean:382]: This is another proposed but not strictly necessary API lemma about `biUnion`s. (See comments at `iUnion_biUnion`.)

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean [hunk 3]
```diff
@@ -92,6 +92,12 @@ theorem infEdist_iUnion (f : ι → Set α) (x : α) : infEdist x (⋃ i, f i) =
   iInf_iUnion f _
 #align emetric.inf_edist_Union EMetric.infEdist_iUnion
 
+lemma infEdist_biUnion {ι : Type*} (f : ι → Set α) (I : Set ι) (x : α) :
```
Comment (kkytola) [inline Mathlib/Topology/MetricSpace/HausdorffDistance.lean:95]: This is another proposed but not strictly necessary API lemma about `biUnion`s. (See comments at `iUnion_biUnion`.)

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 4]
```diff
@@ -395,13 +444,188 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+
+/-! ### On separable spaces the Lévy-Prokhorov distance metrizes convergence in distribution -/
+
+open BoundedContinuousFunction TopologicalSpace
+
+variable {ι : Type*} {Ω : Type*} [MeasurableSpace Ω]
+
+/-- In a separable pseudometric space, for any ε > 0 there exists a countable collection of
+disjoint Borel measurable subsets of diameter at most ε that cover the whole space. -/
+lemma SeparableSpace.exists_measurable_partition_diam_le
```
Comment (kkytola) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:468]: It is not clear to me what is the optimal location for this lemma. It mixes topology and measure theory. `#find_home` suggests this file (although I find that conclusion slightly hard to believe).

I'd expect that the file `Mathlib.MeasureTheory.Constructions.BorelSpace.Basic` on Borel sigma algebras and `OpensMeasurableSpaces` should have approximately the right imports of topology and measure theory. However, this lemma is probably not core content there even if the necessary imports are in place there.

For the moment, the PR suggests to add the lemma here, but I am happy to hear better suggestions. Another natural option might be to create a new file about Borel spaces with separability assumption in the folder `Mathlib.MeasureTheory.Constructions.BorelSpace`. I'm happy with either.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 5]
```diff
@@ -3,7 +3,7 @@ Copyright (c) 2023 Kalle Kytölä. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Kalle Kytölä
 -/
-import Mathlib.MeasureTheory.Measure.ProbabilityMeasure
+import Mathlib.MeasureTheory.Measure.Portmanteau
```
Comment (kkytola) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:6]: This strengthened import is necessary for the nontrivial direction of the comparison of the Lévy-Prokhorov topology and the weak convergence topology. So it was just a matter of time and should not be seen as import creep".

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 6]
```diff
@@ -395,13 +444,188 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+  intro ε ε_pos
+  have liminf_open :=
+    @ProbabilityMeasure.le_liminf_measure_open_of_tendsto Ω _ (𝓝 P) _ _ _ _ P id tendsto_id
+  have third_ε_pos : 0 < ε / 3 := by linarith
+  have third_ε_pos' : 0 < ENNReal.ofReal (ε / 3) := ofReal_pos.mpr third_ε_pos
+  obtain ⟨Es, Es_mble, Es_bdd, Es_diam, Es_cover, Es_disjoint⟩ :=
+    SeparableSpace.exists_measurable_partition_diam_le Ω third_ε_pos
+  have Es_union_incr : Monotone (fun (n : ℕ) ↦ ⋃ i ∈ Iio n, Es i) :=
+    fun _ _ hnm ↦ biUnion_mono (Iio_subset_Iio_iff.mpr hnm) (fun _ _ ↦ le_rfl)
+  have exhaust : Tendsto (P.toMeasure ∘ fun n => ⋃ i, ⋃ (_ : i < n), Es i) atTop (𝓝 (P univ)) := by
```
Comment (kkytola) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:516]: Perhaps this `have exhaust := ...` (together with a few things around it) would be reasonable to split off as a stand-alone lemma from the long proof. The right general lemma is the existing `tendsto_measure_iUnion`. But perhaps also a suitable special case of it deserves to be stand-alone, to facilitate applying it for example in cases where we have probability measures and partitions.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 7]
```diff
@@ -227,9 +232,48 @@ noncomputable instance levyProkhorovDist_pseudoMetricSpace_probabilityMeasure :
 lemma LevyProkhorov.dist_def (μ ν : LevyProkhorov (ProbabilityMeasure Ω)) :
     dist μ ν = levyProkhorovDist μ.toMeasure ν.toMeasure := rfl
 
+/-- A simple sufficient condition for bounding `levyProkhorovEDist` between probability measures
+from above. The condition involves only one of two natural bounds, the other bound is for free. -/
+lemma levyProkhorovEDist_le_of_forall_add_pos_le'
+    (μ ν : Measure Ω) [IsProbabilityMeasure μ] [IsProbabilityMeasure ν] (δ : ℝ≥0∞)
+    (h : ∀ ε B, 0 < ε → ε < ∞ → MeasurableSet B → μ B ≤ ν (thickening (δ + ε).toReal B) + δ + ε) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:239]: Is there a reason to have this condition in terms of `δ + ε` for positive `ε`, instead of in terms of `ε` for any `δ < ε`, like it is in other lemmas?

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 8]
```diff
@@ -227,9 +232,48 @@ noncomputable instance levyProkhorovDist_pseudoMetricSpace_probabilityMeasure :
...
+  rw [tsub_add_cancel_of_le prob_le_one, add_assoc, add_assoc] at almost
+  apply (tsub_le_tsub_right almost _).trans
+  rw [ENNReal.add_sub_cancel_left (measure_ne_top ν _), add_comm ε, ← add_assoc, add_comm δ]
+
+/-- A simple sufficient condition for bounding `levyProkhorovDist` between probability measures
+from above. The condition involves only one of two natural bounds, the other bound is for free. -/
+lemma levyProkhorovDist_le_of_forall_add_pos_le
+    (μ ν : Measure Ω) [IsProbabilityMeasure μ] [IsProbabilityMeasure ν] {δ : ℝ} (δ_nn : 0 ≤ δ)
+    (h : ∀ ε B, 0 < ε → MeasurableSet B → μ B ≤ ν (thickening (δ + ε) B) + ENNReal.ofReal (δ + ε)) :
+    levyProkhorovDist μ ν ≤ δ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:260]: ditto

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 9]
```diff
@@ -395,13 +444,188 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
 theorem levyProkhorov_le_convergenceInDistribution :
     TopologicalSpace.coinduced (LevyProkhorov.probabilityMeasure (Ω := Ω)) inferInstance
       ≤ (inferInstance : TopologicalSpace (ProbabilityMeasure Ω)) :=
   (continuous_levyProkhorov_to_probabilityMeasure).coinduced_le
 
-end Levy_Prokhorov_comparison
+end Levy_Prokhorov_is_finer
+
+
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:457]:
```suggestion
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 10]
```diff
@@ -395,13 +444,188 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+open BoundedContinuousFunction TopologicalSpace
+
+variable {ι : Type*} {Ω : Type*} [MeasurableSpace Ω]
+
+/-- In a separable pseudometric space, for any ε > 0 there exists a countable collection of
+disjoint Borel measurable subsets of diameter at most ε that cover the whole space. -/
+lemma SeparableSpace.exists_measurable_partition_diam_le
+    (X : Type*) [PseudoMetricSpace X] [SeparableSpace X]
+    [MeasurableSpace X] [OpensMeasurableSpace X] {ε : ℝ} (ε_pos : 0 < ε) :
+    ∃ (As : ℕ → Set X), (∀ n, MeasurableSet (As n)) ∧ (∀ n, Bornology.IsBounded (As n)) ∧
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:471]: Is there a reason you're including the boundedness condition here, while it also follows from the next condition on the diameter?

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 11]
```diff
@@ -395,13 +444,188 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+    apply (diam_mono (disjointed_subset Bs n) isBounded_ball).trans
+    convert diam_ball half_ε_pos.le
+    ring
+  · have aux : ⋃ n, Bs n = univ := by
+      convert DenseRange.iUnion_uniformity_ball xs_dense <| Metric.dist_mem_uniformity half_ε_pos
+      exact (ball_eq_ball' _ _).symm
+    simpa only [← aux] using iUnion_disjointed
+  · exact disjoint_disjointed Bs
+
+variable [PseudoMetricSpace Ω] [OpensMeasurableSpace Ω]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:500]: Since you are using `[SeparableSpace Ω]` in all the statements, maybe factor it out to the `variable` line? Maybe even move it before the previous lemma, so that it can take advantage of it?

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:468]: For now I agree it makes sense to keep it here.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 12]
```diff
@@ -395,13 +444,188 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+theorem levyProkhorov_eq_convergenceInDistribution [SeparableSpace Ω] :
+    (inferInstance : TopologicalSpace (ProbabilityMeasure Ω))
+      = TopologicalSpace.coinduced (LevyProkhorov.probabilityMeasure (Ω := Ω)) inferInstance :=
+  le_antisymm (continuous_probabilityMeasure_toLevyProkhorov (Ω := Ω)).coinduced_le
+              levyProkhorov_le_convergenceInDistribution
+
+/-- The identity map is a homeomorphism from `ProbabilityMeasure Ω` with the topology of
+convergence in distribution to `ProbabilityMeasure Ω` with the Lévy-Prokhorov (pseudo)metric. -/
+def homeomorph_probabilityMeasure_levyProkhorov [SeparableSpace Ω] :
+    Homeomorph (ProbabilityMeasure Ω) (LevyProkhorov (ProbabilityMeasure Ω)) where
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:616]:
```suggestion
    ProbabilityMeasure Ω ≃ₜ LevyProkhorov (ProbabilityMeasure Ω) where
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 13]
```diff
@@ -395,13 +444,188 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+  toFun := ProbabilityMeasure.toLevyProkhorov (Ω := Ω)
+  invFun := LevyProkhorov.probabilityMeasure (Ω := Ω)
+  left_inv := congrFun rfl
+  right_inv := by exact congrFun rfl
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:620]:
```suggestion
  right_inv := congrFun rfl
```

**Review by sgouezel — COMMENTED** [review]
Looks great, thanks! And sorry for the reviewing delay...

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 10 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: Ah, I had overlooked that! Maybe add a comment somewhere about that? Depending on your application, I'll let you judge if it is more efficient to switch to `ediam` or keep the current version.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 7 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: I changed to the `δ < ε` spellings. It is probably cleaner, indeed.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 14]
```diff
@@ -395,13 +444,188 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+      convert DenseRange.iUnion_uniformity_ball xs_dense <| Metric.dist_mem_uniformity half_ε_pos
+      exact (ball_eq_ball' _ _).symm
+    simpa only [← aux] using iUnion_disjointed
+  · exact disjoint_disjointed Bs
+
+variable [PseudoMetricSpace Ω] [OpensMeasurableSpace Ω]
+
+lemma continuous_probabilityMeasure_toLevyProkhorov [SeparableSpace Ω] :
+    Continuous (ProbabilityMeasure.toLevyProkhorov (Ω := Ω)) := by
+  rw [continuous_iff_continuousAt]
```
[the remark this answers is not in the document]
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:549]: I wrote comments in this proof. I also split off a few standalone lemmas. And while writing comments and realizing that there was a long passage to convince Lean of a thing that was meant to be true by construction, I rephrased the construction and the related standalone lemma --- so the commenting probably resulted in a small improvement, too. And I think your suggested `δ < ε` spelling makes another small improvement here.

Sorry that the proof was probably horrendous to read and review in its original form! I hope it is better now.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 10 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: I struggled a little trying to do the `EMetric.diam` version directly, probably due to my lack of familiarity with uniformities and possibly due to some missing API on emetric and uniformities (in particular I failed to find the analogue of `Metric.ball_eq_ball'` to close the remaining sorry below).

```
/-- In a separable pseudoemetric space, for any ε > 0 there exists a countable collection of
disjoint Borel measurable subsets of diameter at most ε that cover the whole space. -/
lemma SeparableSpace.exists_measurable_partition_ediam_le
    {X : Type*} [PseudoEMetricSpace X] [MeasurableSpace X] [OpensMeasurableSpace X]
    [SeparableSpace X] {ε : ℝ≥0∞} (ε_pos : 0 < ε) :
    ∃ (As : ℕ → Set X), (∀ n, MeasurableSet (As n)) ∧
        (∀ n, EMetric.diam (As n) ≤ ε) ∧ (⋃ n, As n = univ) ∧
        (Pairwise (fun (n m : ℕ) ↦ Disjoint (As n) (As m))) := by
  by_cases X_emp : IsEmpty X
  · refine ⟨fun _ ↦ ∅, fun _ ↦ MeasurableSet.empty, ?_, ?_, fun _ _ _ ↦ disjoint_of_subsingleton⟩
    · intro n
      simpa only [EMetric.diam_empty] using LT.lt.le ε_pos
    · simp only [iUnion_empty]
      apply Eq.symm
      simp only [univ_eq_empty_iff, X_emp]
  rw [not_isEmpty_iff] at X_emp
  obtain ⟨xs, xs_dense⟩ := exists_dense_seq X
  have half_ε_pos : 0 < ε / 2 := ENNReal.div_pos ε_pos.ne.symm two_ne_top
  set Bs := fun n ↦ EMetric.ball (xs n) (ε/2)
  set As := disjointed Bs
  set Bs := fun n ↦ EMetric.ball (xs n) (ε/2)
  set As := disjointed Bs
  refine ⟨As, ?_, ?_, ?_, ?_⟩
  · exact MeasurableSet.disjointed (fun n ↦ measurableSet_eball)
  · intro n
    apply (EMetric.diam_mono (disjointed_subset Bs n)).trans
    convert EMetric.diam_ball
    exact (ENNReal.mul_div_cancel' two_ne_zero two_ne_top).symm
  · have aux : ⋃ n, Bs n = univ := by
      convert DenseRange.iUnion_uniformity_ball xs_dense <| edist_mem_uniformity half_ε_pos
      simp only [Bs]
      -- ⊢ EMetric.ball (xs x✝) (ε / 2) = UniformSpace.ball (xs x✝) {p | edist p.1 p.2 < ε / 2}
      sorry
    simpa only [← aux] using iUnion_disjointed
  · exact disjoint_disjointed Bs
```

Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: It is of course possible to deduce the `EMetric.diam` version from the version I stated originally (below). But at that point it is in my opinion already dubious whether the pros of `EMetric.diam` outweigh the extra hassle.

```

```
lemma ENNReal.truncateToReal_pos (z t : ℝ≥0∞) (z_pos : 0 < z) (t_pos : 0 < t) (h : z ≠ ∞ ∨ t ≠ ∞) :
    0 < z.truncateToReal t := by
  simp [ENNReal.truncateToReal]
  apply toReal_pos (lt_min z_pos t_pos).ne.symm
  rcases h with z_ne_top | t_ne_top
  · exact (lt_of_le_of_lt (min_le_left z t) z_ne_top.symm.lt_top').ne
  · exact (lt_of_le_of_lt (min_le_right z t) t_ne_top.symm.lt_top').ne

/-- In a separable pseudometric space, for any ε > 0 there exists a countable collection of
disjoint Borel measurable subsets of diameter at most ε that cover the whole space. -/
lemma SeparableSpace.exists_measurable_partition_ediam_le {ε : ℝ≥0∞} (ε_pos : 0 < ε) :
    ∃ (As : ℕ → Set Ω), (∀ n, MeasurableSet (As n)) ∧
        (∀ n, EMetric.diam (As n) ≤ ε) ∧ (⋃ n, As n = univ) ∧
        (Pairwise (fun (n m : ℕ) ↦ Disjoint (As n) (As m))) := by
  obtain ⟨As, As_mble, As_bdd, As_diam_le, As_cover, As_disj⟩ :=
    SeparableSpace.exists_measurable_partition_diam_le Ω
      <| ENNReal.truncateToReal_pos _ _ ε_pos zero_lt_one (Or.inr one_ne_top)
  refine ⟨As, As_mble, ?_, As_cover, As_disj⟩
  by_cases ε_top : ε = ∞
  · simp [ε_top]
  exact fun n ↦ (toReal_le_toReal (isBounded_iff_ediam_ne_top.mp (As_bdd n)) ε_top).mp
    <| le_trans (As_diam_le n) (truncateToReal_le ε_top)
```
```

Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: I think I am inclined to keep the original spelling for now.

File: Mathlib/Data/Set/Lattice.lean [hunk 15]
```diff
@@ -2120,6 +2120,22 @@ theorem disjoint_sUnion_right {s : Set α} {S : Set (Set α)} :
   disjoint_sSup_iff
 #align set.disjoint_sUnion_right Set.disjoint_sUnion_right
 
+lemma biUnion_compl_eq_of_pairwise_disjoint_of_iUnion_eq_univ {ι : Type*} {Es : ι → Set α}
+    (Es_union : ⋃ i, Es i = univ) (Es_disj : Pairwise fun i j ↦ Disjoint (Es i) (Es j))
+    (I : Set ι) :
+    (⋃ i ∈ I, Es i)ᶜ = ⋃ i ∈ Iᶜ, Es i := by
+  ext x
+  obtain ⟨i, hix⟩ := show ∃ i, x ∈ Es i by simp [← mem_iUnion, Es_union]
```
[the remark this answers is not in the document]
Comment (kkytola) [reply Mathlib/Data/Set/Lattice.lean:2128]: Thanks! Yes, I had forgotten this more elegant syntax of `obtain`.

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean [hunk 16]
```diff
@@ -184,6 +184,28 @@ theorem ae_mem_iff_measure_eq [IsFiniteMeasure μ] {s : Set α} (hs : NullMeasur
   ae_iff_measure_eq hs
 #align measure_theory.ae_mem_iff_measure_eq MeasureTheory.ae_mem_iff_measure_eq
 
+lemma tendsto_measure_biUnion_Ici_zero_of_iUnion_eq_univ_of_pairwise_disjoint
+    {X : Type*} [MeasurableSpace X] {μ : Measure X} [IsFiniteMeasure μ]
+    {Es : ℕ → Set X} (Es_union : ⋃ i, Es i = univ) (Es_mble : ∀ i, MeasurableSet (Es i))
+    (Es_disj : Pairwise fun n m ↦ Disjoint (Es n) (Es m)) :
+    Tendsto (μ ∘ fun n => ⋃ i, ⋃ (_ : n ≤ i), Es i) atTop (𝓝 0) := by
```
[the remark this answers is not in the document]
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/Typeclasses.lean]: Yes, sorry! That hypothesis is indeed unnecessary, and the use of `tendsto_measure_iInter` golfs a few lines, and I agree it is a cleaner mathematical argument (no need to subtract). I fixed this. Thanks!

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 17]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+  · have aux : ⋃ n, Bs n = univ := by
+      convert DenseRange.iUnion_uniformity_ball xs_dense <| Metric.dist_mem_uniformity half_ε_pos
+      exact (ball_eq_ball' _ _).symm
+    simpa only [← aux] using iUnion_disjointed
+  · exact disjoint_disjointed Bs
+
+variable {Ω}
+
+lemma ProbabilityMeasure.toMeasure_add_pos_gt_mem_nhds (P : ProbabilityMeasure Ω)
+    {G : Set Ω} (G_open : IsOpen G) {ε : ℝ≥0∞} (ε_pos : 0 < ε) (ε_ne_top : ε ≠ ∞) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:497]: You shouldn't need `ε_ne_top` here.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 18]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+    · exact ε_pos.ne.symm
+  filter_upwards [gt_mem_sets_of_limsInf_gt (α := ℝ≥0∞) isBounded_ge_of_bot
+      (show P.toMeasure G - ε < limsInf ((𝓝 P).map (fun Q ↦ Q.toMeasure G)) from aux)] with Q hQ
+  simp only [preimage_setOf_eq, mem_setOf_eq] at hQ
+  convert ENNReal.add_lt_add_right ε_ne_top hQ
+  exact (tsub_add_cancel_of_le easy).symm
+
+lemma ProbabilityMeasure.continuous_toLevyProkhorov :
+    Continuous (ProbabilityMeasure.toLevyProkhorov (Ω := Ω)) := by
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:515]: No empty lines in proofs. The comments are already enough to separate the steps of the proof.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 19]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+    SeparableSpace.exists_measurable_partition_diam_le Ω third_ε_pos
+
+  -- Instead of the whole space `Ω = ⋃ n ∈ ℕ, Es n`, focus on a large but finite
+  -- union `⋃ n < N, Es n`, chosen in such a way that the complement has small `P`-mass,
+  -- `P (⋃ n < N, Es n)ᶜ < ε/3`.
+  have exhaust :=
+    @tendsto_measure_biUnion_Ici_zero_of_pairwise_disjoint Ω _ P.toMeasure _ Es Es_mble Es_disjoint
+  simp only [tendsto_atTop_nhds, Function.comp_apply] at exhaust
+  obtain ⟨N, hN⟩ := exhaust (Iio (ENNReal.ofReal (ε / 3))) third_ε_pos' isOpen_Iio
+  specialize hN N le_rfl
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:539]: With `obtain`, you can make your proof more readable by making explicit the properties of `N` you will use, and also making it clear that this is an atomic proof step:
```suggestion
  obtain ⟨N, hN⟩ : ∃ N, (P : Measure Ω) (⋃ i ≥ N, Es i) < ENNReal.ofReal (ε / 3) := by
    have exhaust :=
      @tendsto_measure_biUnion_Ici_zero_of_pairwise_disjoint Ω _ P.toMeasure _ Es Es_mble Es_disjoint
    simp only [tendsto_atTop_nhds, Function.comp_apply] at exhaust
    obtain ⟨N, hN⟩ := exhaust (Iio (ENNReal.ofReal (ε / 3))) third_ε_pos' isOpen_Iio
    exact ⟨N, hN N le_rfl⟩ 
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 20]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+  have Js_finite : Set.Finite {J | J ⊆ Iio N} := Finite.finite_subsets <| finite_Iio N
+  set Gs := (fun (J : Set ℕ) ↦ thickening (ε/3) (⋃ j ∈ J, Es j)) '' {J | J ⊆ Iio N}
+  have Gs_open : ∀ (J : Set ℕ), IsOpen (thickening (ε/3) (⋃ j ∈ J, Es j)) :=
+    fun J ↦ isOpen_thickening
+
+  -- Any open set `G ⊆ Ω` determines a neighborhood of `P` consisting of those `Q` that
+  -- satisfy `P G < Q G + ε/3`.
+  have mem_nhds_P :
+      ∀ G, IsOpen G → ({Q | P.toMeasure G < Q.toMeasure G + ENNReal.ofReal (ε/3)} ∈ 𝓝 P) :=
+    fun G G_open ↦ P.toMeasure_add_pos_gt_mem_nhds G_open third_ε_pos' ofReal_ne_top
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:552]:
```suggestion
  have mem_nhds_P (G : Set Ω) (G_open : IsOpen G) : 
      {Q | P.toMeasure G < Q.toMeasure G + ENNReal.ofReal (ε/3)} ∈ 𝓝 P :=
    P.toMeasure_add_pos_gt_mem_nhds G_open third_ε_pos' ofReal_ne_top
```
You can move variables to the left of the colon in `have` statements.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 21]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+  -- Note that in order to show that the Lévy-Prokhorov distance `LPdist P Q` is small (`≤ 2*ε/3`),
+  -- it suffices to show that for arbitrary subsets `B ⊆ Ω`, the measure `P B` is bounded above up
+  -- to a small error by the `Q`-measure of a small thickening of `B`.
+  apply lt_of_le_of_lt ?_ (show 2*(ε/3) < ε by linarith)
+  rw [LevyProkhorov.dist_def, levyProkhorovDist, levyProkhorovEDist_comm]
+  apply levyProkhorovDist_le_of_forall_le
+  · linarith
+  · -- Fix an arbitrary set `B ⊆ Ω`, and an arbitrary `δ > 2*ε/3` to gain some room for error
+    -- and for thickening.
+    intro δ B δ_gt _
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:569]:
```suggestion
  -- Fix an arbitrary set `B ⊆ Ω`, and an arbitrary `δ > 2*ε/3` to gain some room for error
  -- and for thickening.
  apply levyProkhorovDist_le_of_forall_le _ _ (by linarith) (fun δ B δ_gt _ ↦ ?_)
```
You can put the linarith and the intro step in the `apply`. The main advantage is that you can unindent the rest of your proof.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 22]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+  -- we have `P (Gs J) < Q (Gs J) + ε/3`.
+  filter_upwards [(Finset.iInter_mem_sets Js_finite.toFinset).mpr <|
+                    fun J _ ↦ mem_nhds_P _ (Gs_open J)] with Q hQ
+  simp only [Finite.mem_toFinset, mem_setOf_eq, thickening_iUnion, mem_iInter] at hQ
+
+  -- Note that in order to show that the Lévy-Prokhorov distance `LPdist P Q` is small (`≤ 2*ε/3`),
+  -- it suffices to show that for arbitrary subsets `B ⊆ Ω`, the measure `P B` is bounded above up
+  -- to a small error by the `Q`-measure of a small thickening of `B`.
+  apply lt_of_le_of_lt ?_ (show 2*(ε/3) < ε by linarith)
+  rw [LevyProkhorov.dist_def, levyProkhorovDist, levyProkhorovEDist_comm]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:564]:
```suggestion
  rw [dist_comm]
```
shoud be enough.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 23]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+      obtain ⟨w, w_in_Ek, w_near⟩ := ω_in_thEk
+      obtain ⟨z, ⟨z_in_B, z_in_Ek⟩⟩ := nonempty_iff_ne_empty.mpr B_intersects
+      refine ⟨z, z_in_B, lt_of_le_of_lt (dist_triangle ω w z) ?_⟩
+      apply lt_of_le_of_lt (add_le_add w_near.le <|
+              (dist_le_diam_of_mem (Es_bdd k) w_in_Ek z_in_Ek).trans <| Es_diam k)
+      linarith
+
+    -- We use the resulting upper bound `P B ≤ P (Gs JB) + P (small complement)`.
+    apply (measure_mono B_subset).trans
+    apply (measure_union_le _ _).trans
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:609]:
```suggestion
    apply (measure_mono B_subset).trans ((measure_union_le _ _).trans ?_)
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 24]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+
+    -- Recall that the small complement is small, `P (small complement) < ε/3`.
+    have aux : P.toMeasure (⋃ j ∈ Iio N, Es j)ᶜ < ENNReal.ofReal (ε/3) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:612]: Since it's the only place you're using `hN`, I would even hide that in the obtain that gives you `N`: the defining property of `N` should be that `hN : P.toMeasure (⋃ j ∈ Iio N, Es j)ᶜ < ENNReal.ofReal (ε/3)`.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 25]
```diff
@@ -387,19 +435,220 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+  toFun := ProbabilityMeasure.toLevyProkhorov (Ω := Ω)
+  invFun := LevyProkhorov.toProbabilityMeasure (Ω := Ω)
+  left_inv := congrFun rfl
+  right_inv := congrFun rfl
+  continuous_toFun := ProbabilityMeasure.continuous_toLevyProkhorov
+  continuous_invFun := LevyProkhorov.continuous_toProbabilityMeasure
+
+/-- The topology of convergence in distribution on a separable space is pseudo-metrizable. -/
+theorem pseudoMetrizableSpace_probabilityMeasure :
+    PseudoMetrizableSpace (ProbabilityMeasure Ω) :=
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:649]:
```suggestion
instance : PseudoMetrizableSpace (ProbabilityMeasure Ω) :=
```
Also, in this instance, instead of starting from a pseudometric space, it would be better to start from a pseudometrizable space, I think.

**Review by sgouezel — COMMENTED** [review]
Thanks for adding the comments in the main proof, it's much more readable now!

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 20 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:552]: Ah, I did not realize that `have` allows such syntax. Thanks!

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 24 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:610]: Thanks! This is clearly better style.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 25 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:647]: I did this, but my proof became very ugly. I kept getting `the synthesized type class is not definitionally equal to ...` until I really had spelled out each and every implicit type class argument in each piece, and in the end I managed to `convert` and rewrite with the equality of the clearly equal topologies...

```
/-- The topology of convergence in distribution on a separable space is pseudo-metrizable. -/
instance (X : Type*)
    [TopologicalSpace X] [PseudoMetrizableSpace X] [SeparableSpace X]
    [MeasurableSpace X] [OpensMeasurableSpace X]:
    PseudoMetrizableSpace (ProbabilityMeasure X) := by
  obtain ⟨psmetr, h⟩ := PseudoMetrizableSpace.exists_pseudo_metric (X := X)
  have opensMble : @OpensMeasurableSpace X psmetr.toUniformSpace.toTopologicalSpace _ := by
    convert ‹OpensMeasurableSpace X›
  have sepble : @SeparableSpace X psmetr.toUniformSpace.toTopologicalSpace := by
    convert ‹SeparableSpace X›
  let homeo := @homeomorph_probabilityMeasure_levyProkhorov X psmetr sepble _ opensMble
  have ind := @Homeomorph.inducing (ProbabilityMeasure X) (LevyProkhorov (ProbabilityMeasure X))
          (@ProbabilityMeasure.instTopologicalSpace X _
            psmetr.toUniformSpace.toTopologicalSpace opensMble) _ homeo
  convert @Inducing.pseudoMetrizableSpace (ProbabilityMeasure X)
          (LevyProkhorov (ProbabilityMeasure X))
          (@ProbabilityMeasure.instTopologicalSpace X _
            psmetr.toUniformSpace.toTopologicalSpace opensMble) _ _ _ ind
  exact h.symm
```

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: If you lookat the docstring of `PseudoMetrizableSpace`, you will see that it gives the advice to use `letI : PseudoMetricSpace X := TopologicalSpace.pseudoMetrizableSpacePseudoMetric X` to endow your space with a metric. With this metric, the topology is defeq to the original one, so all your problems should be solved and the original proof should work just fine.

Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: Oh, indeed, thanks a lot!

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 26]
```diff
@@ -387,19 +435,207 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
+      convert DenseRange.iUnion_uniformity_ball xs_dense <| Metric.dist_mem_uniformity half_ε_pos
+      exact (ball_eq_ball' _ _).symm
+    simpa only [← aux] using iUnion_disjointed
+  · exact disjoint_disjointed Bs
+
+variable {Ω}
+
+lemma ProbabilityMeasure.toMeasure_add_pos_gt_mem_nhds (P : ProbabilityMeasure Ω)
+    {G : Set Ω} (G_open : IsOpen G) {ε : ℝ≥0∞} (ε_pos : 0 < ε) :
+    ({Q | P.toMeasure G < Q.toMeasure G + ε} ∈ 𝓝 P) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:498]:
```suggestion
    {Q | P.toMeasure G < Q.toMeasure G + ε} ∈ 𝓝 P := by
```

**Review by sgouezel — COMMENTED** [review]
This looks great. Thanks!
You haven't changed the label from awaiting-author to awaiting-review, but still,
bors d+

**Comment by kkytola** [comment]
> This looks great. Thanks! You haven't changed the label from awaiting-author to awaiting-review, but still, bors d+

Thank you very much for your extremely helpful review, again!

bors r+
